US04499094
2-methyl 4-(3-nitro phenyl) quinoline is prepared by nitration at 0° C. of 2-methyl 4-phenyl quinoline (1.36 10-1 mole) with sulfonitric mixture (90 ml nitric acid 60% and 90 ml concentrated sulfuric acid) and separation of isomers. It has a melting point of 157° C.

reactant | 2-methyl 4-phenyl quinoline | 10-1 mole | CC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C16H13N
reactant | nitric acid | 90 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 90 ml | S(O)(O)(=O)=O | H2O4S
product | 2-methyl 4-(3-nitro phenyl) quinoline | CC1=NC2=CC=CC=C2C(=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H12N2O2
